US08895566B2
A solution of (S)-tert-butyl 1-(2,4-dichlorophenyl)-3-hydroxypropan-2-ylcarbamate (50 mg, 0.156 mmol) in DCM (1 mL) was cooled to 0° C. Triethylamine (24 μL, 0.172 mmol) was added, followed by methanesulfonyl chloride (24 μL, 0.312 mmol). The reaction mixture was allowed to warm up slowly to room temperature and was stirred for 4 hours. TLC analysis of the reaction mixture showed no more starting material. Diethyl ether was added, and the precipitate was filtered. The filtrate was concentrated, and the resulting residue was diluted with DMF (0.5 mL), and sodium azide (51 mg, 0.781 mmol) was added. The reaction mixture was heated to 100° C. for 16 hours. LC-MS of mixture showed no more starting material. Water was added (5 mL), and the reaction mixture was extracted with diethyl ether (3×5 mL). The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated. The crude product was purified on silica gel (0%-70% EtOAc/hexanes gradient elution to yield (S)-tert-butyl 1-azido-3-(2,4-dichlorophenyl)propan-2-ylcarbamate as an oil (32 mg, 59%). m/z 345 (M+); 1H NMR (CDCl3) δ (ppm) 7.39 (s, 1H), 7.21-7.17 (m, 2H), 4.71-4.68 (m, 1H), 4.07-4.02 (m, 1H), 3.52-3.38 (m, 2H), 2.95-2.86 (m, 2H), 1.38 (s, 9H).

reactant | (S)-tert-butyl 1-(2,4-dichlorophenyl)-3-hydroxypropan-2-ylcarbamate | 0.156 mmol, 50 mg | ClC1=C(C=CC(=C1)Cl)C[C@@H](CO)NC(OC(C)(C)C)=O | C14H19Cl2NO3
reactant | Triethylamine | 0.172 mmol, 24 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.312 mmol, 24 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium azide | 0.781 mmol, 51 mg | [N-]=[N+]=[N-].[Na+]
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
solvent | Diethyl ether | C(C)OCC | C4H10O
product | (S)-tert-butyl 1-azido-3-(2,4-dichlorophenyl)propan-2-ylcarbamate | 32 mg, 59% | N(=[N+]=[N-])C[C@H](CC1=C(C=C(C=C1)Cl)Cl)NC(OC(C)(C)C)=O | C14H18Cl2N4O2
